US07544812B2
3-(4-{2-[1-(4-Benzoyl-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-2-phenoxy-propionic acid ethyl ester
To a cooled (0° C.) suspension of NaH (45 mg, 1.1 mmol, 60% w/w in mineral oil) in DMF (0.5 ml) is added a solution of 2-Methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-2-phenoxy-propionic acid ethyl ester (320 mg, 0.75 mmol) in DMF (1.5 ml). After 5 minutes, the reaction mixture is removed from the cooling bath and stirred while warming to ambient temperature over 30 minutes. The solution is cooled again to 0° C., and 4-(bromomethyl)benzophenone (188 mg, 0.68 mmol) is added in a single portion, the cooling bath removed, and the mixture stirred for one hour. The reaction mixture is quenched with 1N HCl and extracted with ethyl acetate (2×). The organic extracts were washed with water, brine, dried (Na2SO4), and concentrated to an oil. The crude product is purified by flash chromatography on a Biotage silica cartridge (gradient elution, 2:1 hexanes:ethyl acetate to 1:2 hexanes:ethyl acetate) to provide an oil (46 mg, 10%).

reactant | NaH | 1.1 mmol, 45 mg | [H-].[Na+]
reactant | 2-Methyl-3-{4-[2-(3-methyl-2-oxo-imidazolidin-4-yl)-ethoxy]-phenyl}-2-phenoxy-propionic acid ethyl ester | 0.75 mmol, 320 mg | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(NC1)=O)C)(OC1=CC=CC=C1)C)=O | C24H30N2O5
reactant | 4-(bromomethyl)benzophenone | 0.68 mmol, 188 mg | BrCC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C14H11BrO
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 3-(4-{2-[1-(4-Benzoyl-benzyl)-3-methyl-2-oxo-imidazolidin-4-yl]-ethoxy}-phenyl)-2-methyl-2-phenoxy-propionic acid ethyl ester | 46 mg, 10% | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C(C1=CC=CC=C1)=O)=O)C)(OC1=CC=CC=C1)C)=O | C38H40N2O6
